US08669361B2
Step 1: Preparation of [(R)-1-(4-{[5-tert-butoxycarbonylamino-2-(3-trifluoromethyl-phenyl)-thiazole-4-carbonyl]-amino}-2-methyl-2H-pyrazol-3-yl)-perhydro-azepin-4-yl]-carbamic acid benzyl ester
In a microwave vial was placed ((R)-1-{4-[(2-bromo-5-tert-butoxycarbonylamino-thiazole-4-carbonyl)-amino]-2-methyl-2H-pyrazol-3-yl}-perhydro-azepin-4-yl)-carbamic acid benzyl ester (100.0 mg, 0.154 mmol), 4,4,5,5-tetramethyl-2-(3-trifluoromethyl-phenyl)-1,3,2-dioxaborolane (209.7 mg, 0.77 mmol, 5.0 eq.), sodium carbonate (49.0 mg, 0.46 mmol, 3.0 eq.), potassium acetate (45.4 mg, 0.46 mmol, 3.0 eq.), [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II), complexed with dichloromethane (1:1) (25.2 mg, 0.03, mmol, 0.20 eq), ACN (9.0 mL), and water (1.9 mL). The reaction mixture was degassed with N2 for 10 minutes and then subjected to microwave irradiation at 100° C. for 40 minutes. The reaction mixture was diluted with ethyl acetate (50 mL) and then filtered through a pad of Celite. The filtrate was washed with 50% brine/water, water and brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. The crude was purified via flash column chromatography eluted with 50 to 100% ethyl acetate/heptane to give 73.5 mg (66.8%) of desired product as an oil. MS (ESI) m/z: 714.4 [M+H]+.

reactant | ((R)-1-{4-[(2-bromo-5-tert-butoxycarbonylamino-thiazole-4-carbonyl)-amino]-2-methyl-2H-pyrazol-3-yl}-perhydro-azepin-4-yl)-carbamic acid benzyl ester | 0.154 mmol, 100.0 mg | C(C1=CC=CC=C1)OC(N[C@H]1CCN(CCC1)C=1N(N=CC1NC(=O)C=1N=C(SC1NC(=O)OC(C)(C)C)Br)C)=O | C27H34BrN7O5S
reactant | 4,4,5,5-tetramethyl-2-(3-trifluoromethyl-phenyl)-1,3,2-dioxaborolane | 0.77 mmol, 209.7 mg, 5.0 eq. | CC1(OB(OC1(C)C)C1=CC(=CC=C1)C(F)(F)F)C | C13H16BF3O2
reactant | sodium carbonate | 0.46 mmol, 49.0 mg, 3.0 eq. | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium acetate | 0.46 mmol, 45.4 mg, 3.0 eq. | C(C)(=O)[O-].[K+]
reactant | dichloromethane | 25.2 mg, 0.20 eq | ClCCl | CH2Cl2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | water | 1.9 mL | O | H2O
solvent | ACN | 9.0 mL | C(C)#N | C2H3N
product | [(R)-1-(4-{[5-tert-butoxycarbonylamino-2-(3-trifluoromethyl-phenyl)-thiazole-4-carbonyl]-amino}-2-methyl-2H-pyrazol-3-yl)-perhydro-azepin-4-yl]-carbamic acid benzyl ester | 73.5 mg, 66.8% | C(C1=CC=CC=C1)OC(N[C@H]1CCN(CCC1)C=1N(N=CC1NC(=O)C=1N=C(SC1NC(=O)OC(C)(C)C)C1=CC(=CC=C1)C(F)(F)F)C)=O | C34H38F3N7O5S
